US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4-(2-pyridyl)benzamide hydrochloride
The title compound was obtained as white solid by conducting the operations similar to those of Example 1, using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 4-(2-pyridyl)benzenecarboxylic acid. The resulting solid was dissolved in ethyl acetate, followed by addition of 4N hydrochloric acid-ethyl acetate solution and concentration under reduced pressure, to provide the title compound as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 4-(2-pyridyl)benzenecarboxylic acid | N1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C12H9NO2
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4-(2-pyridyl)benzamide hydrochloride | Cl.C1(CC1)C=1N=C2N(C=C(C=C2)NC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C1C | InChI=1S/C23H20N4O.ClH/c1-15-22(17-7-8-17)26-21-12-11-19(14-27(15)21)25-23(28)18-9-5-16(6-10-18)20-4-2-3-13-24-20;/h2-6,9-14,17H,7-8H2,1H3,(H,25,28);1H
